US04666902
6-(4-(5-Methyl-1,3,4-oxdiazol-2-yl)-methoxyphenyl)-5-hydroxymethyl-2,3,4,5-tetrahydro-pyridazin-3-one
9.0 g (0.03 mol) of 4-(4-(5-methyl-1,3,4-oxdiazol-2-yl)-methoxy-phenyl-carbonyl)-γ-butyrolactone and 1.6 g (0.032 mol) of hydrazine hydrate are stirred in 50 ml of ethanol at room temperature for 12 hours. After addition of 5 ml of acetic acid, the mixture is heated under reflux for 2 hours and concentrated, the residue is dissolved in ethyl acetate and the solution is extracted with aqueous potassium carbonate solution. The organic phase is concentrated and the residue is crystallised with methylene chloride.

reactant | 4-(4-(5-methyl-1,3,4-oxdiazol-2-yl)-methoxy-phenyl-carbonyl)-γ-butyrolactone | 0.03 mol, 9.0 g | CC1=NN=C(O1)C1=CC(=C(C=C1)C(=O)C1CCC(=O)O1)OC | C15H14N2O5
reactant | hydrazine hydrate | 0.032 mol, 1.6 g | O.NN
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 6-(4-(5-Methyl-1,3,4-oxdiazol-2-yl)-methoxyphenyl)-5-hydroxymethyl-2,3,4,5-tetrahydro-pyridazin-3-one | CC1=NN=C(O1)C1=CC(=C(C=C1)C=1C(CC(NN1)=O)CO)OC | C15H16N4O4
